US04104280
Three hundred milligrams of 10,11-dihydrodibenzo[b.f]thiepin-2-acetic acid are dissolved in an excess of 1N aqueous sodium hydroxide and the resultant solution is buffered with 0.3 g. of ammonium chloride. The buffered solution is added to a solution of 200mg. of calcium carbonate in 1N aqueous hydrochloric acid. The formed precipitate is collected by filtration, washed consecutively with water, dimethoxyethane and ether, to yield calcium 10,11-dihydrodibenzo[b.f]thiepin-2-acetate.

reactant | 10,11-dihydrodibenzo[b.f]thiepin-2-acetic acid | Three hundred milligrams | C1=C(C=CC=2SC3=C(CCC21)C=CC=C3)CC(=O)O | C16H14O2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | hydrochloric acid | 1N | Cl | ClH
product | calcium 10,11-dihydrodibenzo[b.f]thiepin-2-acetate | C1=C(C=CC=2SC3=C(CCC21)C=CC=C3)CC(=O)[O-].[Ca+2].C3=C(C=CC=2SC1=C(CCC23)C=CC=C1)CC(=O)[O-] | InChI=1S/2C16H14O2S.Ca/c2*17-16(18)10-11-5-8-15-13(9-11)7-6-12-3-1-2-4-14(12)19-15;/h2*1-5,8-9H,6-7,10H2,(H,17,18);/q;;+2/p-2
